US07399769B2
b) 3-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,5-a]pyridine
To a solution of 5-methyl-3-phenyl-isoxazole-4-carboxylic acid (pyridin-2-ylmethyl)-amide (0.293 g, 1 mmol) in dichloroethane (5 mL) was added phosphorus oxychloride (0.47 mL, 5 mmol) via a syringe and the resulting mixture heated under reflux overnight. After cooling to room temperature, the mixture was diluted with dichloromethane. Cold saturated sodium bicarbonate (15 mL) was then added slowly and the mixture was vigorously stirred for 15 min. The organic layer was separated and the aqueous was extracted with dichloromethane. The combined extracts were washed with water, dried over sodium sulphate, and evaporated. Purification by preparative HPLC on reversed phase [0.1% aq. ammonia (25%)] afforded the title compound (0.13 g, 47%) as an orange solid. MS: m/e: 276.1 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid (pyridin-2-ylmethyl)-amide | 1 mmol, 0.293 g | N1=C(C=CC=C1)CNC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C17H15N3O2
reactant | phosphorus oxychloride | 5 mmol, 0.47 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,5-a]pyridine | 0.13 g, 47% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NC=C2N1C=CC=C2 | C17H13N3O
